US05684034
[[3-(2-Amino-2-oxoethyl)-1-[(3-chlorophenyl)methyl]-2-ethyl-1H-indol-4-yl]oxy]acetic acid methyl ester. (1-[(3-Chlorophenyl)methyl]-2-ethyl-4-hydroxy-1H-indole-3-acetamide (91 mg, 0.3 mmol) was reacted with 12 mg (0.3 mmol) of NaH/mineral oil (washed with hexanes) in 10 mL of DMF and then 0.03 mL (0.3 mmol) of methyl 2-bromoacetate as described in Example 75, Part H, to give after chromatography on silica gel (eluted with ethyl acetate) 80 mg (71% yield) of 2-[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester.

reactant | [[3-(2-Amino-2-oxoethyl)-1-[(3-chlorophenyl)methyl]-2-ethyl-1H-indol-4-yl]oxy]acetic acid methyl ester | COC(COC1=C2C(=C(N(C2=CC=C1)CC1=CC(=CC=C1)Cl)CC)CC(=O)N)=O | C22H23ClN2O4
reactant | 1-[(3-Chlorophenyl)methyl]-2-ethyl-4-hydroxy-1H-indole-3-acetamide | 0.3 mmol, 91 mg | ClC=1C=C(C=CC1)CN1C(=C(C2=C(C=CC=C12)O)CC(=O)N)CC | C19H19ClN2O2
reactant | NaH | 0.3 mmol, 12 mg | [H-].[Na+]
reactant | methyl 2-bromoacetate | 0.3 mmol, 0.03 mL | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester | COC(COC1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)CC)CC(=O)N)=O | C22H24N2O4
